US08076486B2
(2-Fluoro-4-iodo-phenyl)-[4-(5-morpholin-4-yl-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-amine
To a solution of (2-Fluoro-4-iodo-phenyl)-[4-(5-methylsulfanyl-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-amine (100 mg, 0.23 mmol) in dioxane (5 mL) were added morphline (101 mg, 1.17 mmol). The reaction mixture was stirred at 120° C. for 8 h. The solvent was evaporated, residue was purified with prep plate (CH2Cl2:MeOH=20:1 5% TEA), collected product 24 mg. LC-MS (Method A) [5.20 min; 468(M+1)]

reactant | (2-Fluoro-4-iodo-phenyl)-[4-(5-methylsulfanyl-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-amine | 0.23 mmol, 100 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1OC(=NN1)SC | C14H10FIN4OS
reactant | morphline | 1.17 mmol, 101 mg | N1CCOCC1 | C4H9NO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (2-Fluoro-4-iodo-phenyl)-[4-(5-morpholin-4-yl-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-amine | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1OC(=NN1)N1CCOCC1 | C17H15FIN5O2
